US05686460
4.5 g of 2-chloro-5-[(cyclopentylidene)(4-methylsulfonylphenyl)-methyl]pyridine, prepared in Example 6, and 50 ml of a 33% solution of dimethyl-amine in ethanol are placed in a 125 ml autoclave. The mixture is heated at 180° C. under pressure for 7 hours. After cooling, the solvent is evaporated off under vacuum and the residue is taken up with water and then extracted with dichloromethane. The organic phase is dried over magnesium sulfate and evaporated under vacuum. The resulting oil crystallizes from an ethyl ether/isopropyl ether mixture to give 2.8 g of 2-(dimethylamino)-5-[(cyclopentylidene)(4-methylsulfonylphenyl)methyl]pyridine in the form of crystals melting at 122°-123° C.

reactant | 2-chloro-5-[(cyclopentylidene)(4-methylsulfonylphenyl)-methyl]pyridine | 4.5 g | ClC1=NC=C(C=C1)C(C1=CC=C(C=C1)S(=O)(=O)C)=C1CCCC1 | C18H18ClNO2S
reactant | dimethyl-amine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 2-(dimethylamino)-5-[(cyclopentylidene)(4-methylsulfonylphenyl)methyl]pyridine | 2.8 g | CN(C1=NC=C(C=C1)C(C1=CC=C(C=C1)S(=O)(=O)C)=C1CCCC1)C | C20H24N2O2S
